US05385692
0.5 g (1.42 mM) of 2-octyl-5-(5-ethoxypyrimidine-2-yl)indan, 1.0 g (25 mM) of NaOH and 10 ml of diethylene glycol were mixed and refluxed for 3 hours under stirring. After the reaction, the reaction mixture was poured into water and acidified with HCl to precipitate a crystal. The crystal was recovered by filtration and washed with water. The resultant crystal was dissolved in toluene and washed with water, followed by drying with anhydrous sodium sulfate and distilling-off of the solvent to obtain a residue. The residue was purified by silica gel column chromatography (eluent: toluene/ethyl acetate=1/10) to obtain 0.41 g of 2-octyl-5-(5-hydroxypyrimidine-2-yl)indan (Yield: 89.0%).

reactant | 2-octyl-5-(5-ethoxypyrimidine-2-yl)indan | 1.42 mM, 0.5 g | C(CCCCCCC)C1CC2=CC=C(C=C2C1)C1=NC=C(C=N1)OCC | C23H32N2O
reactant | NaOH | 25 mM, 1.0 g | [OH-].[Na+]
reactant | diethylene glycol | 10 ml | C(COCCO)O | C4H10O3
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | 2-octyl-5-(5-hydroxypyrimidine-2-yl)indan | 0.41 g, Yield: 89.0% | C(CCCCCCC)C1CC2=CC=C(C=C2C1)C1=NC=C(C=N1)O | C21H28N2O
